US04962103
(2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-p-toluenesulfonyloxymethyl-4-benzoyloxypyrrolidine (35.82 g) was dissolved in 90 ml of methylethylketone, and 19.29 g of sodium iodide was added thereto, followed by stirring under reflux for 1 hour. The reaction mixture was cooled down to room temperature and filtered. The filtrate was distilled to remove the solvent. The residue was diluted with ethyl acetate, washed successively with water, a sodium hypochlorite solution and water and dried over anhydrous sodium sulfate. The solvent was removed by distillation to give (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-iodomethyl-4-benzoyloxypyrrolidine.

reactant | (2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-p-toluenesulfonyloxymethyl-4-benzoyloxypyrrolidine | 35.82 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C27H26N2O9S
reactant | sodium iodide | 19.29 g | [I-].[Na+]
solvent | methylethylketone | 90 ml | CC(=O)CC | C4H8O
product | (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-iodomethyl-4-benzoyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CI)C=C1 | C20H19IN2O6
